US05262420
Preparation of 1-(3,4-dichlorophenyl)-3-(4-pyridyl)butane
1.0 g (9.35 mmol) of 4-ethylpyridine and 2.37 g (9.35 mmol) of 3,4-dichlorophenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 1.17 g of the desired compound (yield: 44.6%).

reactant | 4-ethylpyridine | 9.35 mmol, 1.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 3,4-dichlorophenethyl bromide | 9.35 mmol, 2.37 g | ClC=1C=C(CCBr)C=CC1Cl | C8H7BrCl2
product | 1-(3,4-dichlorophenyl)-3-(4-pyridyl)butane | 1.17 g, yield: 44.6% | ClC=1C=C(C=CC1Cl)CCC(C)C1=CC=NC=C1 | C15H15Cl2N
